US03946004
Reaction of 2-chlorophenoxazine with 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride according to the procedure of Example 7 affords 2-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]-PHENOXAZINE HYDROCHLORIDE, m.p. 262.5°-264.5° C. (dec.) (corr.), from ethanol-ether.

reactant | 2-chlorophenoxazine | ClC1=CC=2NC3=CC=CC=C3OC2C=C1 | C12H8ClNO
reactant | 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride | Cl.ClC=1N(CCC1)C1=NCCC1
product | 2-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]-PHENOXAZINE HYDROCHLORIDE | Cl.ClC1=CC=2N(C3=CC=CC=C3OC2C=C1)C=1N(CCC1)C1=NCCC1 | InChI=1S/C20H18ClN3O.ClH/c21-14-9-10-18-16(13-14)24(15-5-1-2-6-17(15)25-18)20-8-4-12-23(20)19-7-3-11-22-19;/h1-2,5-6,8-10,13H,3-4,7,11-12H2;1H
